US08633186B2
Prepared as in Example 129c from 2-cyano-3-nitrophenyl trifluoromethanesulfonate Example (129d) and cis-1-propen-1-ylboronic acid. The crude product was purified by chromatography on silica gel eluting with solvent gradient 0% to 100% DCM in hexanes, to give 0.80 g (97%) of (Z)-2-nitro-6-(prop-1-enyl)benzonitrile (97%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.25-8.30 (m, 1H), 7.90-7.98 (m, 2H), 6.25-6.70 (m, 1H), 6.17-6.28 (m, 1H), 1.78-1.82 (m, 3H).

reactant | 2-cyano-3-nitrophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C(=CC=C1)[N+](=O)[O-])C#N)(F)F | C8H3F3N2O5S
reactant | cis-1-propen-1-ylboronic acid | C(=C/C)/B(O)O | C3H7BO2
product | (Z)-2-nitro-6-(prop-1-enyl)benzonitrile | 0.80 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)\C=C/C | C10H8N2O2
